US07842696B2
DIPEA (149.8 mg, 1.15 mmol) was added to a stirred solution of 4-chloro-2,5-difluoro-benzoic acid (49.6 mg, 0.26 mmol) in DMF (3 mL), HOBt (38.2 mg, 0.28 mmol) and EDCI.HCl (123.4 mg, 0.64 mmol) at room temperature. After 2 minutes biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide (100 mg, 0.31 mmol) was added and the resulting mixture was stirred at room temperature overnight. Cold water was then added, and the resulting precipitate was filtered. The residue was purified by column chromatography (using 60-120 mesh silica gel and 50% EtOAc in hexane as eluent) to afford 65 mg (50.7% yield) of biphenyl-4-carboxylicacid {2-[4-(4-chloro-2,5-difluoro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide, LC-MS purity: 99.40%, 1H NMR: (DMSO) δ 8.7-8.6 (s, 1H), 8.04-7.92 (d, 2H), 7.88-7.7 (q, 5H), 7.7-7.6 (s, 1H), 7.58-7.46 (d, 2H), 7.46-7.38 (d, 1H), 4.3-4.12 (d, 2H), 3.8-3.58 (d, 5H), 3.56-3.44 (s, 3H).

reactant | DIPEA | 1.15 mmol, 149.8 mg | CCN(C(C)C)C(C)C | C8H19N
reactant | 4-chloro-2,5-difluoro-benzoic acid | 0.26 mmol, 49.6 mg | ClC1=CC(=C(C(=O)O)C=C1F)F | C7H3ClF2O2
reactant | HOBt | 0.28 mmol, 38.2 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI.HCl | 0.64 mmol, 123.4 mg | CCN=C=NCCCN(C)C.Cl
reactant | biphenyl-4-carboxylicacid (2-oxo-2-piperazin-1-yl-ethyl)-amide | 0.31 mmol, 100 mg | O=C(CNC(=O)C1=CC=C(C=C1)C1=CC=CC=C1)N1CCNCC1 | C19H21N3O2
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | biphenyl-4-carboxylicacid {2-[4-(4-chloro-2,5-difluoro-benzoyl)-piperazin-1-yl]-2-oxo-ethyl}-amide | 65 mg, 50.7% yield | ClC1=CC(=C(C(=O)N2CCN(CC2)C(CNC(=O)C2=CC=C(C=C2)C2=CC=CC=C2)=O)C=C1F)F | C26H22ClF2N3O3
